US07776864B2
Step 2: 2-Ethynyl-6-phenyl-5-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)[1,2,4]triazolo[1,5-a]pyrimidine
0.12 ml triethylamine are added to a solution of 137 mg 2-(5-piperidin-4H[1,2,4]triazol-3-yl)-pyridine*2HCl (prepared from tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate and pyridine-2-carbonitrile according to a procedure described in U.S. Pat. No. 4,011,218 or WO2005100344) in 5 ml methanol. To this solution a solution of 150 mg 4-{6-phenyl-2-[(trimethylsilyl)ethynyl][1,2,4]triazolo[1,5-a]pyrimidin-5-yl}benzaldehyde in 5 ml DMF is added, followed by 0.057 ml glacial acetic acid and 161 mg NaBH(OAc)3. The resulting mixture is stirred at room temperature. Additional portions of 2 equivalents NaBH(OAc)3 are added after 1, 2, 4 and 6 hours. The solvent is removed by evaporation after 22 h. The residue is dissolved in methanol and potassium carbonate is added. The mixture is stirred over night. The solvent is evaporated and the residue is purified by chromatography on silica gel (dichloromethane/[dichloromethane+7M NH3 in methanol]) to yield the desired compound.

reactant | tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate | N(N)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | pyridine-2-carbonitrile | N1=C(C=CC=C1)C#N | C6H4N2
reactant | 4-{6-phenyl-2-[(trimethylsilyl)ethynyl][1,2,4]triazolo[1,5-a]pyrimidin-5-yl}benzaldehyde | 150 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=C(N2)C#C[Si](C)(C)C)C2=CC=C(C=O)C=C2 | C23H20N4OSi
reactant | NaBH(OAc)3 | 161 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 2 equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 0.057 ml | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
product | 2-Ethynyl-6-phenyl-5-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)[1,2,4]triazolo[1,5-a]pyrimidine | C(#C)C1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC=CC=C2)=N1 | C32H27N9
